US09284274B2
A mixture of 2.5 g (11.9 mmol) jasmonic acid (i.e. 2-(3-oxo-2-(2-pentenyl)cyclopentyl)acetic acid) and Pd/C (0.5 g) in THF (50 mL) was hydrogenated at room temperature for 4 h. The reaction mixture was filtered and the filtrate was concentrated to give 2-(3-oxo-2-(pentanyl)cyclopentyl)acetic acid (2.5 g, 100%) as yellow oil.

reactant | jasmonic acid | 11.9 mmol, 2.5 g | CC/C=C\C[C@@H]1[C@H](CCC1=O)CC(=O)O | C12H18O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2-(3-oxo-2-(pentanyl)cyclopentyl)acetic acid | 2.5 g, 100% | O=C1C(C(CC1)CC(=O)O)CCCCC | C12H20O3
